US09227978B2
1-(3-(2-Methylpiperazin-1-yl)azetidin-1-yl)prop-2-en-1-one hydrochloride
The mixture of tert-butyl 4-(1-acryloylazetidin-3-yl)-3-methylpiperazine-1-carboxylate (62 mg, 0.199 mmol) in MeOH/HCl (20 mL, 2.9 M) was stirred at RT for 1 h. The mixture was concentrated in vacuo to afford the crude product (59 mg). The crude product was used directly in the next step without further purification.

reactant | tert-butyl 4-(1-acryloylazetidin-3-yl)-3-methylpiperazine-1-carboxylate | 0.199 mmol, 62 mg | C(C=C)(=O)N1CC(C1)N1C(CN(CC1)C(=O)OC(C)(C)C)C | C16H27N3O3
reactant | MeOH HCl | 2.9 M, 20 mL | CO.Cl
product | 1-(3-(2-Methylpiperazin-1-yl)azetidin-1-yl)prop-2-en-1-one hydrochloride | 59 mg | Cl.CC1N(CCNC1)C1CN(C1)C(C=C)=O | InChI=1S/C11H19N3O.ClH/c1-3-11(15)13-7-10(8-13)14-5-4-12-6-9(14)2;/h3,9-10,12H,1,4-8H2,2H3;1H
